US06660753B2
A suspension of methyl 3-(aminocarbonyl)-5-propoxybenzoate (2.0 g, 8.2 mmol) in a dichloromethane (25 mL) at 0° C. was treated with pyridine (1.3 mL, 17 mmol) and then trifluoroacetic anhydride dropwise (1.4 mL, 9.9 mmol). The reaction was stirred at 0° C. for 20 minutes and then stirred overnight at ambient temperature. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated. Silica gel chromatography using a 40% dichloromethane/hexanes afforded 1.5 g (84%) of methyl 3-cyano-5-propoxybenzoate as a white solid.

reactant | methyl 3-(aminocarbonyl)-5-propoxybenzoate | 8.2 mmol, 2.0 g | NC(=O)C=1C=C(C(=O)OC)C=C(C1)OCCC | C12H15NO4
reactant | pyridine | 17 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl 3-cyano-5-propoxybenzoate | 1.5 g, 84% | C(#N)C=1C=C(C(=O)OC)C=C(C1)OCCC | C12H13NO3
